US08445674B2
D) 4-[4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-[1,4]diazepan-5-one
To 0.44 g (1 mmol) of 4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester in 10 ml of MeOH was added 0.05 g of 10% palladium on charcoal. The mixture was stirred under 1 atmosphere of hydrogen for 1.5 h after which time the reaction was filtered through Hyflo and concentrated, affording the titled compound in 85% yield as a colorless foam. MS: 310.4 (MH+).

reactant | 4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 1 mmol, 0.44 g | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)CCCC(=O)N1C[C@H](C2(CC2)CC1)O | C24H33N3O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 0.05 g | [Pd] | Pd
product | 4-[4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-[1,4]diazepan-5-one | 85% yield | O[C@H]1C2(CC2)CCN(C1)C(CCCN1CCNCCC1=O)=O | C16H27N3O3
